US07230020B2
Synthesis of 4-propyl-N-quinolin-6-yl-benzenesulfonamide, STX 933 (KRB01059)
To a solution of 4n-propylbenzenesulphonyl chloride (159 mg, 0.728 mmol) in dichloromethane (4 mL) was added pyridine (140 μL, 1.74 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-aminoquinoline (100 mg, 0.694 mmol) was added. The resulting mixture was stirred for 2 h at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a white solid (210 mg, 93%), single spot at Rf 0.71 (ethyl acetate). mp 180.1-180.7° C., HPLC purity 99+% (tR 2.37 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 8.83 (1H, dd, J=4.2, 1.7 Hz), 8.05 (1H, d, J=8.4 Hz), 7.97 (1H, d, J=9.2 Hz), 7.70 (2H, d, J=8.2 Hz), 7.57 (1H, d, J=2.5 Hz), 7.40-7.34 (2H, m), 7.22 (2H, m), 6.85 (1H, s, N—H, 2.57 (2H, t, J=7.2 Hz), 1.57 (2H, sextet, J=7.2 Hz), 0.87 (3H, t, J=7.3 Hz). LCMS: 325.23 (M−). FAB-MS (MH+, C18H18N2O2S): calcd 327.1167, found 327.1167.

reactant | 4n-propylbenzenesulphonyl chloride | 0.728 mmol, 159 mg | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | pyridine | 1.74 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-aminoquinoline | 0.694 mmol, 100 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-propyl-N-quinolin-6-yl-benzenesulfonamide | 210 mg, 93% | C(CC)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CC=NC2=CC1 | C18H18N2O2S
